US07700633B2
A. 2,6-Dimethoxy-N,N-dimethylbenzamide
To a solution of dimethylamine (42 mL, 84 mmol) in THF at 0° C. is added 2,6-dimethoxybenzoyl chloride (5.58 g, 27.8 mmol) and it is warmed to RT and stirred for 18 h. The mixture is poured to EtOAc, washed with water, 1 N HCl solution and brine. The solvent is removed and concentrated to give the title compound and it is used in the next step.

reactant | dimethylamine | 84 mmol, 42 mL | CNC | C2H7N
reactant | 2,6-dimethoxybenzoyl chloride | 27.8 mmol, 5.58 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 2,6-Dimethoxy-N,N-dimethylbenzamide | COC1=C(C(=O)N(C)C)C(=CC=C1)OC | C11H15NO3
